data/core_train_final.csv
"[H:1][C:2]1([CH2:4][CH2:5][CH2:6][CH2:7]1)[H:3].[Cl:8]>>[H:1][C:2]1[CH2:4][CH2:5][CH2:6][CH2:7]1.[H:3][Cl:8] 8-3,8;2,3-8,3;2,3-2",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]([CH3:3])([CH3:17])[O:4][C:5]([CH2:7][CH2:8][C:9]([CH2:10][C:11]([F:12])[F:13])([F:14])[F:15])([F:6])[F:16].[CH2:18]=[C:19]([F:20])[F:21]>>[CH3:3][C:2]([CH3:17])([CH3:1])[O:4][C:5]([CH2:7][CH2:8][C:9]([CH2:10][C:11]([CH2:18][C:19]([F:20])[F:21])([F:12])[F:13])([F:14])[F:15])([F:16])[F:6] 18,19-19; 18,19-18,11; 11-11,18",Room Temperature,Propagation,addition
"[CH3:1][CH2:2][O:3][C:4](=[O:9])[O:5][CH2:6][CH:7][Cl:8].[CH2:10]=[CH:11][Cl:12]>>[CH3:1][CH2:2][O:3][C:4](=[O:9])[O:5][CH2:6][CH:7]([CH2:10][CH:11][Cl:12])[Cl:8] 7-7,10; 10,11-7,10; 10,11-11",Room Temperature,Propagation,addition
"[H:1][C:2]1[CH2:6][CH2:5][CH2:4][O:3]1.[H:9][O:8][O:7]>>[H:1][C:2]1([CH2:6][CH2:5][CH2:4][O:3]1)[O:7][O:8][H:9] 7-7,2; 2-7,2",Room Temperature,Termination,recombine
"C[C:10]1CCCC1.[Br:20][Br:21]>>C[C:10]1(CCCC1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])[H:4].[H:9][C:8](=[CH:7][C:6](=[CH2:11])[CH3:5])[H:10]>>[H:9][C:8]([H:10])[CH:7]=[C:6]([CH3:5])[CH2:11][C:2]([H:1])([H:3])[H:4] 6,11-11,2; 2-2,11; 11,6-7,6; 7,8-6,7; 7,8-8",Room Temperature,Propagation,addition
"[H:20][CH:21](C)CCBr.C1CC(=O)[N:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.C[CH:21]CCBr 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:20]C1=CC=CC=C1.[Cl:10]>>C[CH:20](C1=CC=CC=C1)[Cl:10] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21]/1CCCCC/C=C1.[Br:10]>>[H:20][Br:10].C1CC/C=C\[CH:21]CC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1C=CCCC1(C)C.[Br:10]>>[H:20][Br:10].CC1(CCC=C[CH:21]1)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:11][O:10][C:9]1[CH:8]=[C:5]([CH:6]=[CH:7][C:12]1=[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1]>>[CH3:11][O:10][C:9]1=[CH:8][C:5](=[CH:6][CH:7]=[C:12]1[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1] 9-9,12; 12,13-9,12; 12,13-13",Room Temperature,Propagation,resonance
"C1CC=CC[CH:10]1.[Br:20][Br:21]>>C1C[CH:10](CC=C1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)[C:20](C)C.[Br:10]>>CC(C)[C:20](C)(C)[Br:10] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:13]=[CH:14][CH:15]=[CH:16][C:17]1=[CH:18][CH:19]=[CH:20][CH:21]=[CH:22]1.[CH:8]1=[CH:7][CH:6]=[C:5]2[C:10](=[CH:9]1)[C:11](=[O:12])[CH:3][C:2](=[O:1])[O:4]2>>[CH:20]1=[CH:19][CH:18]=[C:17]([CH:22]=[CH:21]1)[CH:16]=[CH:15][CH:14][CH2:13][CH:3]2[C:11](=[O:12])[C:10]3=[CH:9][CH:8]=[CH:7][CH:6]=[C:5]3[O:4][C:2]2=[O:1] 3-3,13; 13,14-3,13; 13,14-14",Room Temperature,Propagation,addition
"[CH2:20]=[CH:21]C1=CC=CC=C1.C1=CC=C(C=C1)C[CH:10]C2=CC=CC=C2>>C1=CC=C(C=C1)C[CH:10]([CH2:20][CH:21]C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:8][C:7]1=[CH:9][C:3]2[C:4](=[CH:10][C:11]3=[C:12]([C:2]2=[O:1])[CH:13]=[CH:14][CH:15]=[CH:16]3)[CH:5]=[CH:6]1>>[H:8][C:7]1[CH:6]=[CH:5][C:4]2=[CH:10][C:11]3=[C:12]([CH:13]=[CH:14][CH:15]=[CH:16]3)[C:2](=[O:1])[C:3]2=[CH:9]1 3-3,9; 7,9-3,9; 7,9-7",Room Temperature,Propagation,resonance
"[CH3:1][C:2]1=[C:3]([CH2:4][CH2:5][CH2:6][CH2:7]1)[CH3:8].[Br:9][Br:10].[Ar]>>[Ar].[CH3:1][C:2]1=[C:3]([CH2:4][CH2:5][CH2:6][CH2:7]1)[CH3:8].[Br:9].[Br:10] 10,9-10;10,9-9",Heat,Initiation,homolyze
"CCCC[CH2:10].[Cl:20][Cl:21]>>CCCC[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]CC(C)Cl.[Cl:20][Cl:21]>>C[CH:10](CC(C)Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:6][C:5]([CH3:9])([C:7]#[N:8])[C:3]([C:2]([C:11]([C:12]([Cl:13])[F:14])([F:16])[F:15])([Cl:1])[F:17])([F:10])[F:4].[C:19](=[C:21]([F:23])[F:22])([Cl:18])[F:20]>>[CH3:6][C:5]([CH3:9])([C:7]#[N:8])[C:3]([C:2]([C:11]([C:12]([C:21]([C:19]([Cl:18])[F:20])([F:23])[F:22])([Cl:13])[F:14])([F:16])[F:15])([Cl:1])[F:17])([F:10])[F:4] 12-12,21; 21,19-12,21; 19,21-19",Room Temperature,Propagation,addition
"[Cl:11][CH3:10].[He]>>[He].[Cl:11].[CH3:10] 10,11-10;10,11-11",Light,Initiation,homolyze
"CC[CH:20]C(C)Br.CCC([CH:10]C)Br>>CC[CH:20]([CH:10](C)C(CC)Br)C(C)Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1[CH:14]2[CH2:15][CH:10]([C:11]2([CH3:12])[CH3:13])[CH:4]3[CH:3]1[N:7]([C:6](=[O:9])[O:5]3)[CH3:8]>>[CH3:1][C:2]1=[CH:14][CH2:15][CH:10]([CH:4]2[CH:3]1[N:7]([C:6](=[O:9])[O:5]2)[CH3:8])[C:11]([CH3:12])[CH3:13] 2-2,14; 11,14-14,2; 11,14-11",Room Temperature,Propagation,retroaddition
"C[C:10](C)C(=N)N.CC(=O)[CH:21]=[CH2:20]>>CC(=O)[CH:21][CH2:20][C:10](C)(C)C(=N)N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C1=CC=C2C3=C(C=CC=C3)[CH:20]C2=C1.[Br:10][Br:11]>>C1=CC=C2C3=C(C=CC=C3)[CH:20](C2=C1)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
